US06642249B2
A solution of 4-chloro-quinoline-3-carboxylic acid ethyl ester (11.8 mg, 0.5 mmol) and 4-hydrazino-benzoic acid (7.6 mg, 0.5 mmol) in n-butanol (0.5 mL) was stirred at 115° C. over night in a sealed tube. After cooling to 50-70° C., heptane (1.0 mL) was added and the product was allowed to crystallize upon further cooling to room temperature. The solvent was removed and the product was washed with heptane and dried under vacuum to yield 4-(3-oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl)-benzoic acid (13 mg). 1H NMR (400 MHz, DMSO-d6) δ 12.9 (1H, s), 8.77 (1H, d), 8.38 (2H, d), 8.25 (1H, d), 8.03 (2H, d), 7.65-7.77 (2H, m), 7.58 (1H, t).

reactant | 4-chloro-quinoline-3-carboxylic acid ethyl ester | 0.5 mmol, 11.8 mg | C(C)OC(=O)C=1C=NC2=CC=CC=C2C1Cl | C12H10ClNO2
reactant | 4-hydrazino-benzoic acid | 0.5 mmol, 7.6 mg | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | heptane | 1.0 mL | CCCCCCC | C7H16
solvent | n-butanol | 0.5 mL | C(CCC)O | C4H10O
product | 4-(3-oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl)-benzoic acid | 13 mg | O=C1N(N=C2C1=CNC=1C=CC=CC21)C2=CC=C(C(=O)O)C=C2 | C17H11N3O3
